US07423012B2
A solution of (3-Phenyl-propyl)-phosphinic acid (0.579 g 3.143 mmol) and 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-acrylic acid ethyl ester (0.327 g 1.067 mmol) in MeCN (7.5 mL) was degassed using the freeze-thaw technique. BSA (2.55 g 12.57 mmol) was added and the mixture was stirred for 3 days and concentrated under reduced pressure. The residue was dissolved in chloroform, washed with NaHCO3 and brine, dried and concentrated under reduced pressure. Flash chromatography (CH2Cl2/MeOH, 8:2) gave 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-3-[hydroxy-(3-phenyl-propyl)-phosphinoyl]-propionic acid ethyl ester (0.240 g, 16%).

reactant | (3-Phenyl-propyl)-phosphinic acid | 3.143 mmol, 0.579 g | C1(=CC=CC=C1)CCCP(O)=O | C9H13O2P
reactant | 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-acrylic acid ethyl ester | 1.067 mmol, 0.327 g | C(C)OC(C(=C)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C16H22N2O4
solvent | MeCN | 7.5 mL | CC#N | C2H3N
product | 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-3-[hydroxy-(3-phenyl-propyl)-phosphinoyl]-propionic acid ethyl ester | 0.240 g, 16% | C(C)OC(C(CP(=O)(CCCC1=CC=CC=C1)O)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C25H35N2O6P
